US05112594
An ether solution of dihydro-2,2-dimethyl-3-(2H)-furanone; (4.55 g, 39.9 mmol) in -30 mL of ether was added dropwise to a suspension of sodium hydride (3.2 g of 60%, 80 mmol) in 150 mL of ether containing three drops of ethanol and 6.5 mL (80 mmol) of ethyl formate stirred at 0° C. After stirring overnight at room temperature, the reaction mixture was taken up into water, the ether layer separated, washed with additional ether, acidified with 6N HCl and extracted into ether. The combined ether layers were washed with water and brine, dried over MgSO4, decolorized with charcoal, filtered and evaporated to leave 2.4 g of 4-hydroxymethylene-dihydro-2,2-dimethyl-3(2H)furanone as a colorless oil (43%).

reactant | dihydro-2,2-dimethyl-3-(2H)-furanone | CC1(OCCC1=O)C | C6H10O2
reactant | sodium hydride | 80 mmol, 3.2 g | [H-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | ethyl formate | 80 mmol, 6.5 mL | C(=O)OCC | C3H6O2
solvent | ether | -30 mL | CCOCC | C4H10O
catalyst | ether | 150 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | 4-hydroxymethylene-dihydro-2,2-dimethyl-3(2H)furanone | 2.4 g, 43% | OC=C1C(C(OC1)(C)C)=O | C7H10O3
